US07750154B2
Using an analogous procedure to that described paragraph (A) in the portion of Example 13 which is concerned with the preparation of starting materials 3-amino-2,2-dimethylpropan-1-ol was reacted with N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-fluoro-2-nitrobenzamide to give N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-[(3-hydroxy-2,2-dimethylpropyl)amino]-2-nitrobenzamide; NMR Spectrum: (DMSOd6) 0.56 (m, 2H), 0.68 (m, 2H), 0.88 (s, 6H), 2.29 (s, 3H), 2.83 (m, 1H), 3.06 (d, 2H), 3.20 (s, 2H), 6.78 (m, 2H), 7.19 (s, 1H), 7.28 (d, 1H), 7.57 (d, 1H), 7.89 (s, 1H), 7.98 (d, 1H), 8.38 (d, 1H), 9.89 (s, 1M); Mass Spectrum: M+Na+ 463.

reactant | 3-amino-2,2-dimethylpropan-1-ol | NCC(CO)(C)C | C5H13NO
reactant | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-fluoro-2-nitrobenzamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(C1=C(C=CC(=C1)F)[N+](=O)[O-])=O)C | C18H16FN3O4
product | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-[(3-hydroxy-2,2-dimethylpropyl)amino]-2-nitrobenzamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(C1=C(C=CC(=C1)NCC(CO)(C)C)[N+](=O)[O-])=O)C | C23H28N4O5
